US04504479
4-[5-(1-Imidazolylmethyl)-thien-2-yl]-4-oxo-butyric acid methyl ester
19.5 g of succinic acid methyl ester chloride and then a solution of 20 g of 1-(thien-2-ylmethyl)-imidazole in 200 ml of 1,2-dichloroethane are added dropwise to a suspension of 53.5 g of aluminium chloride in 240 ml of 1,2-dichloroethane, whilst cooling with ice. The mixture is then stirred at 50° C. for 3 hours. After it has been cooled, the reaction mixture is stirred into a mixture of 147.3 g of ethylenediaminetetraacetic acid and 500 g of ice and is brought to about pH 8 by addition of dilute sodium hydroxide solution. The phases are separated and the organic phase is dried over Na2SO4 and concentrated. Extraction of the residue by stirring with hexane gives colourless crystals.

reactant | succinic acid methyl ester chloride | 19.5 g | [Cl-].COC(CCC(=O)O)=O
reactant | 1-(thien-2-ylmethyl)-imidazole | 20 g | S1C(=CC=C1)CN1C=NC=C1 | C8H8N2S
reactant | aluminium chloride | 53.5 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | ethylenediaminetetraacetic acid | 147.3 g | C(CN(CC(=O)O)CC(=O)O)N(CC(=O)O)CC(=O)O | C10H16N2O8
reactant | sodium hydroxide | [OH-].[Na+]
solvent | 1,2-dichloroethane | 200 ml | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 240 ml | ClCCCl | C2H4Cl2
product | 4-[5-(1-Imidazolylmethyl)-thien-2-yl]-4-oxo-butyric acid methyl ester | COC(CCC(=O)C=1SC(=CC1)CC=1NC=CN1)=O | C13H14N2O3S
